US06972294B1
(Z)-(2S)-3-{4-[3-(4-Bromophenyl)-3-phenyl-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of 3-(4-bromophenyl)-3-phenyl-prop-2-en-1-ol (145 mg, 0.50 mmol), triphenylphosphine (144 mg, 0.55 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (119 mg, 0.50 mmol) and diethyl azodicarboxylate (96 mg, 0.55 mmol) in an identical manner to example 1 gave the title compound (110 mg, 43%).

reactant | 3-(4-bromophenyl)-3-phenyl-prop-2-en-1-ol | 0.50 mmol, 145 mg | BrC1=CC=C(C=C1)C(=CCO)C1=CC=CC=C1 | C15H13BrO
reactant | triphenylphosphine | 0.55 mmol, 144 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 0.50 mmol, 119 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethyl azodicarboxylate | 0.55 mmol, 96 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | (Z)-(2S)-3-{4-[3-(4-Bromophenyl)-3-phenyl-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 110 mg, 43% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(\C1=CC=CC=C1)/C1=CC=C(C=C1)Br)OCC)=O | C28H29BrO4
